US07476758B2
To a suspension of 4-bromo-3,5-dihydroxybenzoic acid (95.0 kg) in ethyl acetate (950 L) were added anhydrous potassium carbonate (270.8 kg) and dimethyl sulfate (174.7 kg). The mixture was heated at 50-80° C. for about 4 hours and partitioned by adding water. The organic layer was washed with water and saturated aqueous NaCl solution and concentrated under reduced pressure. The residue was suspended into methanol, stirred under heating and cooled. The crystalline precipitates were collected by filtration and dried to yield methyl 4-bromo-3,5-dimethoxybenzoate (98.8 kg) as pale yellow crystals.

reactant | 4-bromo-3,5-dihydroxybenzoic acid | 95.0 kg | BrC1=C(C=C(C(=O)O)C=C1O)O | C7H5BrO4
reactant | potassium carbonate | 270.8 kg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 174.7 kg | S(=O)(=O)(OC)OC | C2H6O4S
reactant | ethyl acetate | 950 L | C(C)(=O)OCC | C4H8O2
product | methyl 4-bromo-3,5-dimethoxybenzoate | 98.8 kg | BrC1=C(C=C(C(=O)OC)C=C1OC)OC | C10H11BrO4
